US04508717
The syn isomer of 2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetic acid (5.32 g), 3-hydroxybenzotriazole (1.62 g) and N,N-dicyclohexylcarbodiimide (2.47 g) are added to a solution, cooled to +5° C., of 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyridin-3-yl-methyl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (5.4 g) in N,N-dimethylformamide (100 cc). The mixture is stirred for 1 hour at 5° C., the temperature is then allowed to rise and the mixture is stirred for 4 hours at 23° C. Acetic acid (0.5 cc) is added, the mixture is stirred for 5 minutes and the suspension is filtered. The filtrate is poured into a 50/50 (by volume) mixture of water and ethyl acetate (500 cc). The organic phase is decanted and then washed successively with a 0.1 N solution of hydrochloric acid (100 cc), a saturated solution of sodium bicarbonate (100 cc), distilled water (100 cc) and a saturated solution of sodium chloride (100 cc). It is dried over anhydrous sodium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 30° C. The residue is purified by chromatography on silica gel (0.05-0.2 mm) (height of silica: 77 cm, diameter of the column: 3.5 cm), elution being carried out with a 20/80 (by volume) mixture of cyclohexane and ethyl acetate (1 liter) and then with a 10/90 (by volume) mixture of cyclohexane and ethyl acetate (3.8 liters) and 60 cc fractions being collected. Fractions 39 to 80 are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa). This gives the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl-methyl)thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (5.43 g) in the form of a hard yellow foam.

reactant | 2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetic acid | 5.32 g | CON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21N3O3S
reactant | 3-hydroxybenzotriazole | 1.62 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyridin-3-yl-methyl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 5.4 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)CC=1C=NC=CC1 | C29H24N4O3S2
reactant | Acetic acid | 0.5 cc | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl-methyl)thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 5.43 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)CC=1C=NC=CC1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C54H43N7O5S3
